US08071609B2
A) 9-Vinyl-9H-purin-6-amine
6-Chloro-9-vinylpurine (0.48 g, 3 mmol) was added to saturated ammonia/methanol (20 mL) and the mixture was heated at 50° C. for 15 h. Water was added and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated on a rotavap then subjected to silica gel column chromatography (5% methanol/methylene chloride) yielding the desired product.

reactant | 6-Chloro-9-vinylpurine | 3 mmol, 0.48 g | ClC1=C2N=CN(C2=NC=N1)C=C | C7H5ClN4
reactant | ammonia methanol | 20 mL | N.CO
solvent | Water | O | H2O
product | 9-Vinyl-9H-purin-6-amine | C(=C)N1C2=NC=NC(=C2N=C1)N | C7H7N5
